US09120749B2
1-(4-((trans-4-aminocyclohexyl)amino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)butan-1-one
To a suspension of tert-butyl (trans-4-((3-butyryl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)carbamate (35.2 mg, 0.061 mmol) in THF (3 mL) was added water (2 mL) and 6N aqueous HCl (2 mL). The resultant solution was heated at 65° C. for 4 h. The reaction mixture was cooled and concentrated The resultant residue was purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The residue was eluted through an ion-exchange column (using methanol and 7 N methanol in ammonia) to obtain the desired product (3.7 mg, 13%) as a yellow solid. 1H NMR (500 MHz, MeOD+TFA-d) δ 9.15 (s, 1H), 8.46 (s, 1H), 8.27 (d, J=8.8 Hz, 1H), 8.00 (d, J=8.8 Hz, 1H), 7.72 (s, 2H), 4.53 (br s, 1H), 3.12 (t, J=7.2 Hz, 2H), 2.52 (s, 2H), 2.28 (d, J=12.3 Hz, 2H), 1.95-1.75 (m, 4H), 1.73-1.64 (m, 2H), 1.06 (t, J=7.4 Hz, 3H). ESI MS m/z 472 [C25H27Cl2N3O2+H]+; HPLC>99% (AUC), tR=11.86 min.

reactant | tert-butyl (trans-4-((3-butyryl-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)cyclohexyl)carbamate | 0.061 mmol, 35.2 mg | C(CCC)(=O)C=1C=NC2=CC=C(C=C2C1N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=CC(=C(C(=C1)Cl)O)Cl | C30H35Cl2N3O4
reactant | water | 2 mL | O | H2O
reactant | HCl | 6N, 2 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(4-((trans-4-aminocyclohexyl)amino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)butan-1-one | 3.7 mg, 13% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(CCC)=O | C25H27Cl2N3O2
